US04521327
Production of 2-(4-n-hexoxyphenyl)-1,3-dioxane-5-carboxylic acid (5n)
20.6 g (0.1 mol) 4-n-hexoxybenzaldehyde and 24.2 g (0.11 mol) bis-hydroxymethyl-malonic acid-diethyl ester are heated in 150 ml benzene in a corresponding amount of 0.2 g p-toluenesulfonic acid, while stirring for 8 hours. After cooling, the benzene is carefully washed with 2% NaHCO3 solution, then with water, and then distilled under vacuum (rotating evaporator), with the residue being recrystallized from alcohol (2-(4-n-hexoxyphenyl)-1,3-dioxane-5,5-dicarboxylic acid-diethyl ester I). The yield at I is 31 g (76% of theoretical). I melts at 30° C. (from n-hexane). 31 g (0.074 mol) I and 18 g (0.32 mol) KOH in 150 ml 95% ethanol is heated for one hour at reflux in the continued preparation. Ethanol is then distilled from the reaction residue, water added to the residue, and the aqueous phase concentrated to 30-50 ml. After addition of 100 ml ether, it is cooled to 0° C. and concentrated HCl is added while stirring (up to pH 1). Subsequently, the ether fraction is immediately separated, washed with water, dried with Na2SO4, and the solvent removed in the rotating evaporator. The residue (16.5 g, 62% of theoretical) of 2(4-n-hexoxyphenyl)-1,3-dioxane-5,5-dicarboxylic acid (decomposition above 135° C.) is decarboxylized with a water jet vacuum pump at 120° to 170° C. Having completed the brisk CO2 development, the residue of benzene or cyclohexane is recrystallized. The yield of 5 n is 63% of theoretical. The melting point of 5 n is 176° to 178° C. Additional examples are listed in Table 5.

reactant | 4-n-hexoxybenzaldehyde | 0.1 mol, 20.6 g | C(CCCCC)OC1=CC=C(C=O)C=C1 | C13H18O2
reactant | bis-hydroxymethyl-malonic acid-diethyl ester | 0.11 mol, 24.2 g | C(C)OC(C(C(=O)OCC)(CO)CO)=O | C9H16O6
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | KOH | 0.32 mol, 18 g | [OH-].[K+]
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | n-hexane | CCCCCC | C6H14
product | 2-(4-n-hexoxyphenyl)-1,3-dioxane-5-carboxylic acid | C(CCCCC)OC1=CC=C(C=C1)C1OCC(CO1)C(=O)O | C17H24O5
